US07812022B2
Step H: [2-(3-Aminophenyl)-3-(4-pyrimidinyl)pyrazolo[1,5-a]pyridin-5-yl]methanol
To a suspension of 5-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-2-(3-nitrophenyl)-3-(4-pyrimidinyl)pyrazolo[1,5-a]pyridine (1.75 g, 3.79 mmol) in ethanol (88 mL), sodium sulfide nonahydrate (4.56 g, 19.0 mmol) in H2O (90 mL) was added. The mixture was heated at 100° C. under reflux for 2 h. The mixture was evaporated under reduced pressure to remove ethanol, and following the addition of H2O was cooled to 0° C. The resulting precipitate was filtered to give the product (1.16 g) as a pale orange solid.

reactant | 5-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-2-(3-nitrophenyl)-3-(4-pyrimidinyl)pyrazolo[1,5-a]pyridine | 3.79 mmol, 1.75 g | CC(C)(C)[Si](OCC1=CC=2N(C=C1)N=C(C2C2=NC=NC=C2)C2=CC(=CC=C2)[N+](=O)[O-])(C)C | C24H27N5O3Si
reactant | sodium sulfide nonahydrate | 19.0 mmol, 4.56 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
solvent | ethanol | 88 mL | C(C)O | C2H6O
solvent | H2O | 90 mL | O | H2O
product | [2-(3-Aminophenyl)-3-(4-pyrimidinyl)pyrazolo[1,5-a]pyridin-5-yl]methanol | 1.16 g | NC=1C=C(C=CC1)C1=NN2C(C=C(C=C2)CO)=C1C1=NC=NC=C1 | C18H15N5O
